2108-08-07 06:56:00 Physician Resident Progress Note
Chief Complaint:  sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2108-8-6**] 11:00 PM
 FEVER - 101.2
F - [**2108-8-7**] 04:00 AM
 given tylenol
   -          Tried to wean off dopamine due to patient
s tachycardia.
   Maintain BP with 1 L fluid bolus.  D/c
ed dopamine and started
   phenylepinephrine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-8-7**] 02:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2108-8-7**] 01:17 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-7**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 94 (94 - 120) bpm
   BP: 82/66(69) {82/40(56) - 114/66(69)} mmHg
   RR: 34 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                     94 mL
                                                                  1,800 mL
   PO:
             TF:
   IVF:
                                                                     94 mL
                                                                  1,800 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    420 mL
   Urine:
                                                                    180 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -86 mL
                                                                  1,380 mL
   Respiratory support
   O2 Delivery Device: NC
   SpO2: 100%  2L
   ABG: 7.26/43/116/15/-7
   Physical Examination
   General: well-nourished. More responsive (opens eyes) to voice and
   stimuli.  Tachypneic but irregular breathing decreased.
   CV:  RRR, holosytolic murmur heard best at left sternal border. No
   rubs/gallops
   Lungs:  some crackles at the bases bilat.
   Abd: +bs, soft, nt, nd, no masses
   Ext: right fem line in place without erythema.  Extremeties warm dry
   with improved cap refill.  Mild bilat edema.
   GU: triple lumen foley
   Labs / Radiology
   256 K/uL
   12.5 g/dL
   142 mg/dL
   1.8 mg/dL
   15 mEq/L
   5.0 mEq/L
   32 mg/dL
   107 mEq/L
   139 mEq/L
   36.2 %
   22.0 K/uL
        [image002.jpg]
                             [**2108-8-6**]  11:26 PM
                             [**2108-8-7**]  12:31 AM
                             [**2108-8-7**]  03:37 AM
                             [**2108-8-7**]  06:41 AM
   WBC
   22.0
   Hct
   36.2
   Plt
   256
   Cr
   1.7
   1.8
   TCO2
   22
   20
   Glucose
   136
   142
   Other labs: PT / PTT / INR:17.5/33.0/1.6, Lactic Acid:3.5 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Microbiology:
   Urine and Blood cx pending x2.
   Assessment and Plan
   Mr. [**Known firstname 107**] [**Known lastname 805**] is a 51 yo gentleman with Down syndrome, chronic Hep
   B, and frequent UTIs since undergoing posterior cervical laminectomy
   earlier this month.  He presents with mental status changes, fever,
   hypotension and a urinary tract infection.  By problems:
   #sepsis/ Change in MS -   Source most likely to be from urinary tract
   given urine dip and hx of frequent URI.  CXR also shows area of
   possible infiltrate vs. atelectasis.
   -Obtain sputum cx.  Defer LP for now as consider meningitis as lower on
   differential.
   -Treat empirically with vanco and cefipime per ID recommendation.
   review doses given altering renal function.
   -Obtain central line and follow CVP with goal of CVP of [**11-18**].
   -D/C femoral line after central line access is obtained.
   -Monitor MAP with goal of MAP >55 given patient
s SBP normally runs in
   90s
   -Wean off pressors
 goal to d/c phenylepinephine before levofed.
   # Acute Renal Failure -  Creatinine bumped to 2.7 previously ranged 0.7
   to 1.0.
   - pre-renal element BUN: Cr >20
   - Urine output
 high considering patient
s volume status.
   - Renally dose medications
   - IV fluids
 NS boluses as needed.
   - Avoid nephrotoxins
   -Obtain renal ultrasound to r/o obstruction as well as source for
   repeated infections.
   #Respiratory acidosis/ apneic breathing
 resolving with respiratory
   acidosis.  But still tachypneic.  patient is DNR/DNI.
   # Hep B (chronic)
   - on adefovir and lamivudine chronically
 hold until renal function
   improves.
   # DVT prophylaxis - Pneumatic boots & Hep SQ renally dosed.
   # Nutrition
 patient is NPO.
   # Stress Ulcer prophylaxis - Famotidine at renal dosage.
   # CODE STATUS - DNR/DNI - confirmed with sister.
   # Family contact information - Sister is health care proxy.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-8-6**] 11:00 PM
   18 Gauge - [**2108-8-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-08-08 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   T101.3 @ 2300, pan-cultured, repeat CXR (read pending), repeat WBC 16
   from 22, no bands, decided to hold off on adding more abx (anaerobic
   cov'g for aspiration)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-8-7**] 07:44 AM
   Vancomycin - [**2108-8-7**] 08:00 PM
   Cefipime - [**2108-8-8**] 03:09 AM
   Infusions:
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2108-8-7**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-8**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.3
   HR: 96 (91 - 112) bpm
   BP: 114/65(75) {73/37(46) - 121/82(90)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  6,419 mL
                                                                    234 mL
   PO:
             TF:
   IVF:
                                                                  6,419 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                  1,050 mL
   Urine:
                                                                  3,335 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,084 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.26/43/116/22/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   11.3 g/dL
   128 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   13 mg/dL
   105 mEq/L
   136 mEq/L
   33.2 %
   15.1 K/uL
        [image002.jpg]
                             [**2108-8-6**]  11:26 PM
                             [**2108-8-7**]  12:31 AM
                             [**2108-8-7**]  03:37 AM
                             [**2108-8-7**]  06:41 AM
                             [**2108-8-7**]  01:47 PM
                             [**2108-8-7**]  11:32 PM
                             [**2108-8-8**]  04:23 AM
   WBC
   22.0
   16.6
   15.1
   Hct
   36.2
   35.2
   33.8
   33.2
   Plt
   [**Telephone/Fax (3) 817**]
   Cr
   1.7
   1.8
   1.2
   0.9
   TCO2
   22
   20
   Glucose
   136
   142
   131
   128
   Other labs: PT / PTT / INR:15.5/31.6/1.4, Differential-Neuts:93.1 %,
   Band:0.0 %, Lymph:4.7 %, Mono:1.5 %, Eos:0.4 %, Lactic Acid:2.5 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
URINE CULTURE (Preliminary):
         PROTEUS MIRABILIS.
   [**8-6**] Blood cx x2: gram neg rods
   [**8-7**]   blood cx x2; neg
   RENAL SON[**Name (NI) 818**]: The right kidney measures 10.3 cm. The left kidney
   measures
   12.0 cm. There is no evidence of stones, hydronephrosis, or mass. Of
   note,
   the left renal pelvis is slightly prominent. There is a Foley catheter
   visualized within the bladder, with the bladder partially collapsed.
   Due to
   bladder been partially collapsed, evaluation for bladder wall
   thickening is
   limited.
   IMPRESSION: No evidence of hydronephrosis
   CXR prelim:   lungs look clearer esp in LLL
   Assessment and Plan
   Mr. [**Known firstname 107**] [**Known lastname 805**] is a 51 yo gentleman with Down syndrome, chronic Hep
   B, and frequent UTIs since undergoing posterior cervical laminectomy
   earlier this month.  He presents with mental status changes, fever,
   hypotension and a urinary tract infection.  By problems:
   #sepsis/ Change in MS -   Source most likely to be from urinary tract
   given urine dip and hx of frequent URI.  CXR also shows area of
   possible infiltrate vs. atelectasis.
   -Obtain sputum cx.  Defer LP for now as consider meningitis as lower on
   differential.
   -Treat empirically with vanco and cefipime per ID recommendation.
   review doses given altering renal function.
   -Obtain central line and follow CVP with goal of CVP of [**11-18**].
   -D/C femoral line after central line access is obtained.
   -Monitor MAP with goal of MAP >55 given patient
s SBP normally runs in
   90s
   -Wean off pressors
 goal to d/c phenylepinephine before levofed.
   # Acute Renal Failure -  Creatinine bumped to 2.7 previously ranged 0.7
   to 1.0.
   - pre-renal element BUN: Cr >20
   - Urine output
 high considering patient
s volume status.
   - Renally dose medications
   - IV fluids
 NS boluses as needed.
   - Avoid nephrotoxins
   -Obtain renal ultrasound to r/o obstruction as well as source for
   repeated infections.
   #Respiratory acidosis/ apneic breathing
 resolving with respiratory
   acidosis.  But still tachypneic.  patient is DNR/DNI.
   # Hep B (chronic)
   - on adefovir and lamivudine chronically
 hold until renal function
   improves.
   # DVT prophylaxis - Pneumatic boots & Hep SQ renally dosed.
   # Nutrition
 patient is NPO.
   # Stress Ulcer prophylaxis - Famotidine at renal dosage.
   # Lytes
 Phos low
 replete today.
   # CODE STATUS - DNR/DNI - confirmed with sister.
   # Family contact information - Sister is health care proxy.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-8-6**] 11:00 PM
   18 Gauge - [**2108-8-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-08-09 06:23:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events: Levophed turned off, but MAP dropped into low 50s;
   pressors resumed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-8-7**] 07:44 AM
   Vancomycin - [**2108-8-8**] 09:42 AM
   Cefipime - [**2108-8-9**] 04:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-8-9**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o pain at foley site
   Flowsheet Data as of  [**2108-8-9**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 91 (77 - 99) bpm
   BP: 99/63(70) {77/46(51) - 122/80(89)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,083 mL
                                                                    410 mL
   PO:
                                                                  1,980 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,103 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,691 mL
                                                                    564 mL
   Urine:
                                                                  2,691 mL
                                                                    564 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    392 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   GEN
 Alert, awake, uncomfortable
   CV
 RRR nl S1S2 no w/r/r
   PULM
 CTAB but poor inspiratory effort, no w/r/r
   ABD
 soft NTND +BS; foley draining c/y/u
   EXT
 wwp +PP tr pedal edema, no cyanosis
   Labs / Radiology
   158 K/uL
   10.4 g/dL
   126 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   9 mg/dL
   104 mEq/L
   138 mEq/L
   31.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2108-8-6**]  11:26 PM
                             [**2108-8-7**]  12:31 AM
                             [**2108-8-7**]  03:37 AM
                             [**2108-8-7**]  06:41 AM
                             [**2108-8-7**]  01:47 PM
                             [**2108-8-7**]  11:32 PM
                             [**2108-8-8**]  04:23 AM
                             [**2108-8-9**]  04:00 AM
   WBC
   22.0
   16.6
   15.1
   8.1
   Hct
   36.2
   35.2
   33.8
   33.2
   31.5
   Plt
   [**Telephone/Fax (3) 864**]58
   Cr
   1.7
   1.8
   1.2
   0.9
   0.7
   TCO2
   22
   20
   Glucose
   136
   142
   131
   128
   126
   Other labs: PT / PTT / INR:15.5/31.6/1.4, Differential-Neuts:93.1 %,
   Band:0.0 %, Lymph:4.7 %, Mono:1.5 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   [**8-7**] BCx
 pending
   [**8-6**] UCx
 pan-[**Last Name (un) 270**] proteus mirabilis
   [**8-6**] BCx
 pan-[**Last Name (un) 270**] GNR (prelim.)
   Assessment and Plan
   51 yo M with Down syndrome, chronic Hep B, and frequent UTIs since
   undergoing posterior cervical laminectomy with foley cath placement
   earlier this month p/w GNR septic shock.
    #Septic shock-   Pan-sensitive P. mirabilis in UCx, blood cultures
   grown pan-S GNR
   -Cont. cefepime (day 3) . [**Month (only) 51**] change to Cipro for PO [**Doctor Last Name **] prior to
   D/C. Treat for [**8-20**] day course.
   -MAP goal >55-60 given patient
s SBP normally runs in 90s; has
   maintained adeq. UOP (~90-100 cc/hr) at this BP; wean levophed, may
   give fluid boluses to maintain MAP
   -D/C femoral line once off pressors.
   .
   #GU pain
 adeq. UOP, no c/f obstruction
   -lidojet at meatus
   -oxycodone PRN
   -may try phenazopyridine if no relief
   .
   # Acute Renal Failure
 pre-renal physiology vs. ATN (although no muddy
   browns in sediment) in the setting of shock.   Creatinine now
   normalized at 0.9.
   .
   #Down
s syndrome
   -TTE when off pressors to eval. for structural HD
   .
   # Hep B (chronic)
   -  have restarted usual doses of adefovir and lamivudine
    .
   # PPx - SQH
   .
   # F/E/N
 tolerating a regular diet with adequate PO intake
   -repleted K
   -IVF at KVO; may give NS bolus if hypotensive following d/c levophed
   .
   # Access
 PIV; will d/c fem line once off pressors; eval for midline
   placement for IV ABX
   .
   # CODE STATUS - DNR/DNI - confirmed with sister.
   .
    # Family contact information - Sister is health care proxy.
   .
   #Dispo: ICU while pressor requirement remains f/b floor transfer
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-8-6**] 11:00 PM
   18 Gauge - [**2108-8-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU